US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-propyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-[Cis-5-propyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine, ethylene glycol dimethyl ether and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.50, 7.32, 7.08, 6.98, 5.73, 4.43, 2.98, 2.82, 2.62, 2.50, 2.10, 1.95, 1.76, 1.57-1.44, 1.42-1.18, 0.89; HRMS (FAB) calcd for C25H29Cl2N3S+H 474.1537, found 474.1544. Anal. Calcd for C25H29Cl2N3S: C, 63.28; H, 6.16; N, 8.86;. Found: C, 63.61; H, 6.33; N, 8.65.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-[Cis-5-propyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CCC2=C1C=CS2)CCC)CC | C19H26BrN3S
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-propyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CCC2=C1C=CS2)CCC)CC | C25H29Cl2N3S
